.SUBCKT LT1362     3 2 7 4 6 
* INPUT
RC1 7  80 7.9577E+02
RC2 7  90 7.9577E+02
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.0E-12
*INPUT POLE AT 300MHZ
C1  80 90 0.333E-12
RE1 10 12 +7.7947E+02
RE2 11 12 +7.7947E+02
IEE 12 4  3.2006E-03
RE  12 0  6.2488E+04
* INTERMEDIATE 
GCM 8  0  12 0  3.1565E-08
GA  8  0  78 0  1.2566E-03
R2  8  0  5.47E+06
C2  8  0  3.7E-12
DC1 8  7  DM3
DC2 4  8  DM3
*
*POLE AT 300MHZ
GX1 0  28 90 80 1E-06
RX1 28 0  1E+06
CX1 28 0  0.53E-15
*POLE AT 300MHZ
GX2 0  38 28 0  1E-06
RX2 38 0  1E+06
CX2 38 0  0.53E-15
*POLE AT 300MHZ
GX3 0  48 38 0  1E-06
RX3 48 0  1E+06
CX3 48 0  0.53E-15  
*ZERO AT 60MHZ
GX4 0  58 48 0  1E-06
RX4 58 59 1E+06
LX4 59 0  2.65E-03
*POLE AT 120MHZ
GX5 0  68 58 0  1E-06
RX5 68 0 1E+06
CX5 68 0 1.33E-15
*POLE AT 200MHZ
GX6 0  78 68 0  1E-06
RX6 78 0  1E+06
CX6 78 0  0.796E-15
*
EB  1  0  8  0  1
RO2 1  6  30
RF  8  99 1000
CF  99 6  6E-12
* OUTPUT 
ECL 18 1  6  1  0.46
Q3  7  18 8  QM3
Q4  4  18 8  QM4
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 8  0  70 7  1.0000E+00
VC  13 6  3.0231E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 8  0  60 4  1.0000E+00
VE  6  14 3.0231E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  7.9940E-04
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=4.7059E+03)
.MODEL QM2 NPN (IS=8.0934E-16 BF=6.1538E+03)
.MODEL QM3 NPN (IS=8.0000E-16 BF=100)
.MODEL QM4 PNP (IS=8.0000E-16 BF=100)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=4.3200E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1362
